US08426447B2
To a solution of DIPA (54.0 mL, 385 mmol) in THF (1101 mL, 385 mmol) at −60° C. was added BuLi, 2.5 M in hexanes (154 mL, 385 mmol) over 5 minutes such that the internal temperature was maintained below −60° C. After stirring for 45 minutes at −65° C. a solution of 2-fluoro-5-methoxypyridine (49 g, 385 mmol) in 200 mL of THF was added over the course of 2 minutes maintaining an internal temperature <−65° C. The reaction was stirred at −70° C. for 1.5 hours then reaction was poured into a 3 L flask containing 1200 g of crushed dry ice. The reaction was allowed to warm to 0° C. and then poured into 1000 mL of water. The organics were removed under reduced pressure and the aqueous layer was acidified with 1100 mL of 2 N HCl. The resulting thick white slurry was stirred for 1 hour then filtered to provide 2-fluoro-5-methoxynicotinic acid as a white solid.

reactant | BuLi | [Li]CCCC
reactant | 2-fluoro-5-methoxypyridine | 385 mmol, 49 g | FC1=NC=C(C=C1)OC | C6H6FNO
reactant | dry ice | 1200 g | C(=O)=O | CO2
reactant | water | 1000 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 385 mmol, 1101 mL | C1CCOC1 | C4H8O
product | 2-fluoro-5-methoxynicotinic acid | FC1=C(C(=O)O)C=C(C=N1)OC | C7H6FNO3
